US06969711B2
Acetyl nitrate obtained mixing acetyl anhydride (3.30 g, 33 mmol) with fuming nitric acid (2.05 g, 33 mmol) at 0° C. was dropped into a solution of 2-trifluoromethylphenol (4.86 mg, 30 mmol) in acetonitrile (60 ml) at 0° C. followed by stirring for 10 minutes. The reaction solution was diluted with water and extracted with ether. The organic layer was washed with water and a saturated sodium chloride solution successively and dried and the solvent was evaporated therefrom. The residue was purified by a silica gel column chromatography (60 g of silica gel; developing solvent, hexane:methylene chloride=5:1) to provide 2.1 g (yield 33%) of 2-nitro-6-trifluoromethylphenol as pale yellow crystals.

reactant | nitric acid | 33 mmol, 2.05 g | [N+](=O)(O)[O-] | HNO3
reactant | 2-trifluoromethylphenol | 30 mmol, 4.86 mg | FC(C1=C(C=CC=C1)O)(F)F | C7H5F3O
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 2-nitro-6-trifluoromethylphenol | 2.1 g, yield 33% | [N+](=O)([O-])C1=C(C(=CC=C1)C(F)(F)F)O | C7H4F3NO3
